* CDL/LVS-oriented netlist
.SUBCKT fdprb_x1 Q QN CK D RD VDD VSS
XFDPRB_ck_P0 FDPRB_ck_b CK VDD VDD pmos w=2u l=100n
XFDPRB_ck_N0 FDPRB_ck_b CK VSS VSS nmos w=1u l=100n
XFDPRB_m_in_P FDPRB_m_n1 CK D VDD pmos w=2u l=100n
XFDPRB_m_in_N FDPRB_m_n1 FDPRB_ck_b D VSS nmos w=1u l=100n
XFDPRB_m_i1_P0 FDPRB_m_n2 FDPRB_m_n1 VDD VDD pmos w=2u l=100n
XFDPRB_m_i1_N0 FDPRB_m_n2 FDPRB_m_n1 VSS VSS nmos w=1u l=100n
XFDPRB_m_i2_P0 FDPRB_m_n1 FDPRB_m_n2 VDD VDD pmos w=2u l=100n
XFDPRB_m_i2_N0 FDPRB_m_n1 FDPRB_m_n2 VSS VSS nmos w=1u l=100n
XFDPRB_m_fb_P FDPRB_m_n1 FDPRB_ck_b FDPRB_m_n2 VDD pmos w=2u l=100n
XFDPRB_m_fb_N FDPRB_m_n1 CK FDPRB_m_n2 VSS nmos w=1u l=100n
XFDPRB_m_o_P0 FDPRB_qm FDPRB_m_n2 VDD VDD pmos w=2u l=100n
XFDPRB_m_o_N0 FDPRB_qm FDPRB_m_n2 VSS VSS nmos w=1u l=100n
XFDPRB_s_in_P FDPRB_s_n1 FDPRB_ck_b FDPRB_qm VDD pmos w=2u l=100n
XFDPRB_s_in_N FDPRB_s_n1 CK FDPRB_qm VSS nmos w=1u l=100n
XFDPRB_s_i1_P0 FDPRB_s_n2 FDPRB_s_n1 VDD VDD pmos w=2u l=100n
XFDPRB_s_i1_N0 FDPRB_s_n2 FDPRB_s_n1 VSS VSS nmos w=1u l=100n
XFDPRB_s_i2_P0 FDPRB_s_n1 FDPRB_s_n2 VDD VDD pmos w=2u l=100n
XFDPRB_s_i2_N0 FDPRB_s_n1 FDPRB_s_n2 VSS VSS nmos w=1u l=100n
XFDPRB_s_fb_P FDPRB_s_n1 CK FDPRB_s_n2 VDD pmos w=2u l=100n
XFDPRB_s_fb_N FDPRB_s_n1 FDPRB_ck_b FDPRB_s_n2 VSS nmos w=1u l=100n
XFDPRB_s_o_P0 Q FDPRB_s_n2 VDD VDD pmos w=2u l=100n
XFDPRB_s_o_N0 Q FDPRB_s_n2 VSS VSS nmos w=1u l=100n
XFDPRB_qn_P0 QN Q VDD VDD pmos w=2u l=100n
XFDPRB_qn_N0 QN Q VSS VSS nmos w=1u l=100n
XFDPRB_rdi_P0 FDPRB_rd_b RD VDD VDD pmos w=2u l=100n
XFDPRB_rdi_N0 FDPRB_rd_b RD VSS VSS nmos w=1u l=100n
XFDPRB_rcl Q FDPRB_rd_b VSS VSS nmos w=1u l=100n
.ENDS fdprb_x1
